US04329518
A stirred solution of 3-methyl-2-nitrobenzoic acid (18.1 g, 0.1 mole) in 150 ml of concentrated sulfuric acid was cooled to -5°. Sodium azide (7.5 g, 0.115 mole) was added portionwise to the reaction mixture. After complete addition the reaction mixture was heated at 55° for three hours, then stirred at room temperature for two days. The reaction mixture was poured into ice water and the resulting solution made alkaline (pH 9) with concentrated ammonium hydroxide. A solid precipitate formed and was collected by filtration to give 3-methyl-2-nitroaniline (15.1 g, mp 105°-108.5°).

reactant | 3-methyl-2-nitrobenzoic acid | 0.1 mole, 18.1 g | CC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C8H7NO4
reactant | Sodium azide | 0.115 mole, 7.5 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 3-methyl-2-nitroaniline | 15.1 g | CC=1C(=C(N)C=CC1)[N+](=O)[O-] | C7H8N2O2
